US04341910
Similarly to the procedure described in Example 1, a 25% slurry of 144 grams (4.80 moles) of paraformaldehyde in n-hexane was treated with 1083 grams (4.59 moles) is di-n-octyl decenyl aluminum (prepared from tri-n-octyl aluminum and acetylene). Distillation of the hydrolysis product was performed under 2 mm Hg. The product fraction was removed at 85°-95° C. There was obtained 210 grams (1.25 moles) of cis-2-undecen-1-ol (27.2% of theoretical yield), having a purity of 91%. Identity of the compound was confirmed by ir and nmr spectral analyses.

reactant | paraformaldehyde | 4.80 moles, 144 grams | C=O | CH2O
reactant | di-n-octyl decenyl aluminum | C(CCCCCCC)[Al](C=CCCCCCCCC)CCCCCCCC
solvent | n-hexane | CCCCCC | C6H14
product | cis-2-undecen-1-ol | 1.25 moles, 210 grams, 27.2% | C(\C=C/CCCCCCCC)O | C11H22O
